US07737145B2
A solution of N-Boc nortropinone (2.4 g, 10.9 mmol) and methyl 4-aminomethylbenzoate (1.6 g, 10.9 mmol) in dichloroethane (20 mL) was stirred as acetic acid (0.85 g, 14.2 mmol) was added. After 1 hour, sodium triacetoxyborohydride (2.7 g, 13.1 mmol) was added and the reaction was stirred for 17 hours. The reaction was treated with a saturated aqueous solution of sodium bicarbonate and extracted with ethyl acetate (2×). The combined organic extracts were dried and concentrated. Purification by flash chromatography on silica gel using a gradient of ethyl acetate in hexane gave 3.6 g of 1,1-dimethylethyl 3-[[[4-(methoxycarbonyl)phenyl]methyl]amino]-8-azabicyclo[3.2.1]octane-8-carboxylate.

reactant | N-Boc nortropinone | 10.9 mmol, 2.4 g | CC(C)(C)OC(=O)N1[C@@H]2CC[C@H]1CC(=O)C2 | C12H19NO3
reactant | methyl 4-aminomethylbenzoate | 10.9 mmol, 1.6 g | NCC1=CC=C(C(=O)OC)C=C1 | C9H11NO2
reactant | acetic acid | 14.2 mmol, 0.85 g | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 13.1 mmol, 2.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
product | 1,1-dimethylethyl 3-[[[4-(methoxycarbonyl)phenyl]methyl]amino]-8-azabicyclo[3.2.1]octane-8-carboxylate | 3.6 g | COC(=O)C1=CC=C(C=C1)CNC1CC2CCC(C1)N2C(=O)OC(C)(C)C | C21H30N2O4
